US07915281B2
A mixture of 4-chloro-1-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}-2-propyl-1H-imidazo[4,5-c]quinoline (0.806 g, 1.92 mmol) and 7 N ammonia in methanol (40 mL) was sealed in a pressure vessel and heated at 150° C. for 18 hours and allowed to cool to room temperature. The volatiles were removed under reduced pressure, and the resulting solid was stirred with 0.5 N sodium hydroxide in methanol. The solid was isolated by filtration, washed with diethyl ether, purified by column chromatography on silica gel (eluting with 5% to 10% CMA in chloroform), triturated with diethyl ether, isolated by filtration, and dried to provide 0.123 g of 1-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}-2-propyl-1H-imidazo[4,5-c]quinolin-4-amine as a white powder, mp 226.0-227.0° C.

reactant | 4-chloro-1-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}-2-propyl-1H-imidazo[4,5-c]quinoline | 1.92 mmol, 0.806 g | ClC1=NC=2C=CC=CC2C2=C1N=C(N2CC2=CC(=NO2)C2=CC=C(C=C2)F)CCC | C23H18ClFN4O
reactant | ammonia | 7 N | N | H3N
solvent | methanol | 40 mL | CO | CH4O
product | 1-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}-2-propyl-1H-imidazo[4,5-c]quinolin-4-amine | 0.123 g | FC1=CC=C(C=C1)C1=NOC(=C1)CN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCC | C23H20FN5O
